US08232272B2
13.7 g (51.4 mM) of 5-(4-amino-3-nitrophenyl)-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one are placed under a hydrogen atmosphere at 3 bar for 4 hours in the presence of 24 g of Raney nickel in 280 ml of methanol. The reaction medium is then filtered and the filtrate is concentrated under vacuum to give 10.5 g of 5-(3,4-diaminophenyl)-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one in the form of a solid, which is treated with diisopropyl ether, filtered off and stored under argon at low temperature.

reactant | 5-(4-amino-3-nitrophenyl)-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | 51.4 mM, 13.7 g | NC1=C(C=C(C=C1)C1=NNC(SC1C)=O)[N+](=O)[O-] | C10H10N4O3S
catalyst | Raney nickel | 24 g | [Ni] | Ni
solvent | methanol | 280 ml | CO | CH4O
product | 5-(3,4-diaminophenyl)-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | 10.5 g | NC=1C=C(C=CC1N)C1=NNC(SC1C)=O | C10H12N4OS
